US05344830
Step F: (RS)-1-(N,N-Diphenylcarbamoyl)-2-(2-hydroxyethyl)-4-(N,N-dipentylcarbamoyl)piperazine
To a solution of 174 mg (0.53 mmol) of (RS)-1-(N,N-diphenylcarbamoyl)-2-(2-hydroxyethyl) piperazine in 10 mL of dry tetrahydrofuran was added 450ml (3.23 mmol) of triethylamine in one portion and 176 mg (0.80 mmol) of dipentylcarbamyl chloride (dissolved in 2 mL of dry tetrahydrofuran) and the mixture was stirred under nitrogen at 60° C. for two days. The solution was cooled and concentrated in vacuo. Flash chromatography on 25 g of silica gel using 75:25 v/v ethyl acetate/hexane as the eluant afforded 173 mg (64%) of a yellow oil.

reactant | (RS)-1-(N,N-diphenylcarbamoyl)-2-(2-hydroxyethyl) piperazine | 0.53 mmol, 174 mg | C1(=CC=CC=C1)N(C(=O)N1C(CNCC1)CCO)C1=CC=CC=C1 | C19H23N3O2
reactant | triethylamine | 3.23 mmol, 450ml | C(C)N(CC)CC | C6H15N
reactant | dipentylcarbamyl chloride | 0.80 mmol, 2 mL, 176 mg | C(CCCC)N(C(=O)Cl)CCCCC | C11H22ClNO
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (RS)-1-(N,N-Diphenylcarbamoyl)-2-(2-hydroxyethyl)-4-(N,N-dipentylcarbamoyl)piperazine | 173 mg, 64% | C1(=CC=CC=C1)N(C(=O)N1C(CN(CC1)C(N(CCCCC)CCCCC)=O)CCO)C1=CC=CC=C1 | C30H44N4O3
